US05135863
C. Preparation of m-(carboxymethoxy)phenyl acetone
To m-(t-butylcarboxymethoxy)phenyl acetone, 6.7 g, was added trifluoroacetic acid (40 ml) at room temperature under nitrogen. After five minutes, reaction was found to be completed by tlc (silica gel eluted with 1:9 parts by volume methanol:methylene chloride) and the solvent was then evaporated to dryness. The resulting brown oil showed the desired product and trace of starting material on tlc. IR showed characteristic carboxylic acid peak at 3600-2450 cm-1.

reactant | m-(t-butylcarboxymethoxy)phenyl acetone | C(C)(C)(C)C(OC=1C=C(C=CC1)CC(C)=O)C(=O)O | C15H20O4
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | m-(carboxymethoxy)phenyl acetone | C(=O)(O)COC=1C=C(C=CC1)CC(C)=O | C11H12O4
